US04138495
A reaction flask was charged with 70.0 g (0.434 mole) of m-trifluoromethylaniline and 37.4 g (0.434 mole) of butyrolactone. The mixture was heated to reflux at 198° C for 185 minutes. Then, 1.0 g (0.0058 mole) of ptoluenesulphonic acid was added, and the resulting mixture was refluxed for an additional 100 minutes, during which time the temperature dropped from 164° C to 138° C. The mixture was then cooled, a DEan-Stark trap was installed on the condenser, and 50 ml of mesitylene was added. The mixture was then refluxed at 181-187° C until water was no longer produced. The precipitate formed by the reaction was filtered out of the mixture and dried in vacuo, yielding 45.6 g of 1-(m-trifluoromethylphenyl)-2-pyrrolidone, melting point 65°-66° C.

reactant | m-trifluoromethylaniline | 0.434 mole, 70.0 g | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | butyrolactone | 0.434 mole, 37.4 g | C1(CCCO1)=O | C4H6O2
reactant | mesitylene | 50 ml | C1(=CC(=CC(=C1)C)C)C | C9H12
solvent | water | O | H2O
product | 1-(m-trifluoromethylphenyl)-2-pyrrolidone | 45.6 g | FC(C=1C=C(C=CC1)N1C(CCC1)=O)(F)F | C11H10F3NO
